US08383652B2
0.65 mL (0.65 mmol) of aqueous 1 M sodium hydroxide solution is added to a solution of 0.2 g (0.43 mmol) of methyl (Z)-3-[2-butoxy-3′-(1-methyl-3-butylureido)biphenyl-4-yl]-2-methoxyacrylate in 5 mL of tetrahydrofuran. The reaction mixture is stirred at 68° C. for 5 hours. After cooling, the reaction is stopped by addition of 1 mL aqueous 1 M hydrochloric acid solution and 10 mL of water and extraction with ethyl acetate. The organic phases are combined, washed with saturated sodium chloride solution and then dried over magnesium sulfate. The solvents are evaporated off. The product is recrystallized from a pentane/acetone mixture to give 0.12 g (63%) of (Z)-3-[2-butoxy-3′-(1-methyl-3-butylureido)biphenyl-4-yl]-2-methoxyacrylic acid in the form of a white solid with a melting point of 106° C.

reactant | sodium hydroxide | 1 M | [OH-].[Na+]
reactant | methyl (Z)-3-[2-butoxy-3′-(1-methyl-3-butylureido)biphenyl-4-yl]-2-methoxyacrylate | 0.43 mmol, 0.2 g | C(CCC)OC1=C(C=CC(=C1)\C=C(\C(=O)OC)/OC)C1=CC(=CC=C1)N(C(=O)NCCCC)C | C27H36N2O5
reactant | hydrochloric acid | 1 M | Cl | ClH
reactant | water | 10 mL | O | H2O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (Z)-3-[2-butoxy-3′-(1-methyl-3-butylureido)biphenyl-4-yl]-2-methoxyacrylic acid | 0.12 g, 63% | C(CCC)OC1=C(C=CC(=C1)\C=C(\C(=O)O)/OC)C1=CC(=CC=C1)N(C(=O)NCCCC)C | C26H34N2O5
